US07425631B2
Step E. Preparation of methyl-(7-piperidin-1-ylmethyl-chroman-4-yl)-amine
A mixture of methyl-(7-piperidin-1-ylmethyl-chroman-4-yl)-carbamic acid tert-butyl ester (567 mg, 1.58 mmol, 1.0 eq) in saturated HCl/EtOAc (15 mL) was stirred at RT for 7 h. The solvent was removed with a rotary evaporator. The crude was diluted with saturated Na2CO3 (60 mL), and extracted with EtOAc (60 mL×3). The extract phase was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated. The title compound was obtained as orange oil. MS (ESI, pos. ion) m/z: 261 (M+1).

reactant | methyl-(7-piperidin-1-ylmethyl-chroman-4-yl)-carbamic acid tert-butyl ester | 1.58 mmol, 567 mg, 1.0 eq | C(C)(C)(C)OC(N(C1CCOC2=CC(=CC=C12)CN1CCCCC1)C)=O | C21H32N2O3
solvent | HCl EtOAc | 15 mL | Cl.CCOC(=O)C
product | methyl-(7-piperidin-1-ylmethyl-chroman-4-yl)-amine | CNC1CCOC2=CC(=CC=C12)CN1CCCCC1 | C16H24N2O
